US04074038
A terpolymer of a weight ratio of 70:25:5 styrene:acrylonitrile:indene was prepared by emulsion polymerization using the following ingredients:

reactant | styrene | C=CC1=CC=CC=C1 | C8H8
reactant | acrylonitrile | C(C=C)#N | C3H3N
product | indene | C1C=CC2=CC=CC=C12 | C9H8
